US06559173B1
Under Ar(g), a solution of anhydrous acetonitrile (1.9 mL) in 25 mL anhydrous THF is cooled to −78° C. in a dry ice-acetone bath and then treated in dropwise fashion with 14.3 mL of a 2.5 M n-butyl lithium in hexanes. The reaction mixture is maintained at −78° C. for an additional 1 h and subsequently treated in dropwise fashion with a solution of 5 gms. of 4-dimethylamino-benzoic acid ethyl ester in 25 mL of anhydrous THF. The resulting solution is then stirred overnight at room temperature. Subsequently, the reaction mixture is diluted with ethyl acetate and then extracted with 10% NaOH(aq). The aqueous layer is acidified (pH 6-7) with a 1 M HCl(aq) solution affording a white precipitate. The precipitate is filtered and washed with water. The filtrate is then extracted ethyl acetate. The organic layer is concentrated in vacuo. The organic extraction yields very little of the expected 3-(4-dimethylamino-phenyl)-3-oxo-propionitrile, however, the precipitate isolated from the acidification of the original aqueous layer is indeed the desired 3-(4-dimethylamino-phenyl)-3-oxo-propionitrile. Upon drying the precipitate in vacuo, the desired 3-(4-dimethylamino-phenyl)-3-oxo-propionitrile is isolated as a light brown solid in the amount of 3.295 gms. (68% yield).

reactant | acetonitrile | 1.9 mL | C(C)#N | C2H3N
reactant | n-butyl lithium | 2.5 M | C(CCC)[Li]
reactant | 4-dimethylamino-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)N(C)C)=O | C11H15NO2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-dimethylamino-phenyl)-3-oxo-propionitrile | CN(C1=CC=C(C=C1)C(CC#N)=O)C | C11H12N2O
